US05576324
2-Azidomethyl-8-isopropyl-2,3,5-trimethyl-6,7-dihydrofuro[2,3-f]quinoline-7-one
2-Iodomethyl-8-isopropyl-2,3,5-trimethyl-6,7-dihydrofuro[2,3-f]quinoline-7-one (2.10 g, 5.11 mmol) was dissolved in dimethylformamide (75 ml). To the solution, sodium azide (4.50 g, 69.2 mmol) was added, and the mixture was stirred at 150° C. for 4 hours. The reaction mixture was condensed under reduced pressure, and the residue was extracted from chloroform-water. The organic phase was washed with saturated aqueous sodium chloride solution, dried, and condensed under reduced pressure. The residue was separated and purified by silica gel column chromatography (chloroform) to obtain pale yellow crude crystals. The obtained crude was recrystallized from chloroform-ether-hexane to obtain 1.25 g of the title compound (syn:anti=1) as a colorless powder (75.0%).

reactant | 2-Iodomethyl-8-isopropyl-2,3,5-trimethyl-6,7-dihydrofuro[2,3-f]quinoline-7-one | 5.11 mmol, 2.10 g | ICC1(C(C=2C(=C3C=C(C(NC3=C(C2)C)=O)C(C)C)O1)C)C | C18H22INO2
reactant | sodium azide | 69.2 mmol, 4.50 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 2-Azidomethyl-8-isopropyl-2,3,5-trimethyl-6,7-dihydrofuro[2,3-f]quinoline-7-one | 1.25 g, 75.0% | N(=[N+]=[N-])CC1(C(C=2C(=C3C=C(C(NC3=C(C2)C)=O)C(C)C)O1)C)C | C18H22N4O2
